US04816470
(b) 4-Hydrazino-N-methylbenzenemethanesulphonamide, hydrochloride
A solution of sodium nitrite (13.72 g) in water (160 ml) was added slowly to a cooled stirred mixture of 4-Amino-N-methylbenzene methanesulphonamide (39.3 g), water (240 ml) and conc. hydrochloric acid (400 ml) such that the temperature did not exceed 0°. After stirring for 15 min this mixture was added slowly to a cold solution of stannous chloride dihydrate (221.1 g) in conc. hydrochloric acid (400 ml) again keeping the temperature below 0°. Once the addition was complete the mixture was allowed to warm to room temperature (1 h). The solid was collected by filtration, washed well with diethyl ether (4×250 ml) and dried at 45° to give the title compound as a white powder (31.6 g). An assay by periodate titration showed this to be 91.3% pure.

reactant | sodium nitrite | 13.72 g | N(=O)[O-].[Na+]
reactant | 4-Amino-N-methylbenzene methanesulphonamide | 39.3 g | NC1=CC=C(C=C1)CS(=O)(=O)NC | C8H12N2O2S
reactant | hydrochloric acid | 400 ml | Cl | ClH
reactant | hydrochloric acid | 400 ml | Cl | ClH
solvent | water | 160 ml | O | H2O
solvent | water | 240 ml | O | H2O
product | 4-Hydrazino-N-methylbenzenemethanesulphonamide, hydrochloride | 31.6 g | Cl.N(N)C1=CC=C(C=C1)CS(=O)(=O)NC | InChI=1S/C8H13N3O2S.ClH/c1-10-14(12,13)6-7-2-4-8(11-9)5-3-7;/h2-5,10-11H,6,9H2,1H3;1H
